US05614518
Dimethyl sulphoxide (100 ml) was added over 5 minutes to sodium hydride (6.76 g of a 55% oil dispersion, 0.155 mol) under a nitrogen atmosphere. The mixture was stirred vigorously for 10 minutes, then diluted with anhydrous tetrahydrofuran (80 ml). The mixture was cooled to 5° C. and a solution of trimethylsulphonium iodide (31.63 g, 0.155 mol) in dimethyl sulphoxide (80 ml) was added slowly keeping the temperature of the reaction mixture at 5° C. After addition the reaction mixture was stirred at 5° C. for 2 minutes then a solution of hydrocinnamaldehyde (20.0 g, 0.149 mol) in anhydrous tetrahydrofuran (20 ml) was added over 1 minute. After 15 minutes at 5° C. the cooling bath was removed and the reaction mixture was stirred at room temperature for 2 hours. The reaction mixture was quenched with water (200 ml), then extracted with ethyl acetate (3×100 ml). The combined extracts were washed with saturated sodium chloride solution (200 ml), dried (potassium carbonate) then evaporated to give an orange oil which was purified by distillation under vacuum. (±)-(3,4-Epoxybutyl)-benzene was obtained as a colourless oil (5.2 g, 23%), bp 80°-85° C. (4 mbar).

reactant | sodium hydride | [H-].[Na+]
reactant | trimethylsulphonium iodide | 0.155 mol, 31.63 g | [I-].C[S+](C)C
reactant | hydrocinnamaldehyde | 0.149 mol, 20.0 g | C(CCC1=CC=CC=C1)=O | C9H10O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | dimethyl sulphoxide | 80 ml | CS(=O)C | C2H6OS
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | Dimethyl sulphoxide | 100 ml | CS(=O)C | C2H6OS
product | (±)-(3,4-Epoxybutyl)-benzene | O1C(CCC2=CC=CC=C2)C1 | C10H12O
